US06710040B1
(S)-2-amino-1-(4,4-difluoro-piperidin-1-yl)-3-methyl-pentan-1-one hydrochloride was prepared from 4,4-difluoro-piperidine hydrochloride and Boc-(L)-isoleucine as described in Example 1 (mp 190-192° C.).

reactant | 4,4-difluoro-piperidine hydrochloride | Cl.FC1(CCNCC1)F
reactant | Boc-(L)-isoleucine | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
product | (S)-2-amino-1-(4,4-difluoro-piperidin-1-yl)-3-methyl-pentan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCC(CC1)(F)F)C(CC)C | InChI=1S/C11H20F2N2O.ClH/c1-3-8(2)9(14)10(16)15-6-4-11(12,13)5-7-15;/h8-9H,3-7,14H2,1-2H3;1H/t8?,9-;/m0./s1
